US07332499B2
N-{(1R)-1-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethyl}-1-[(trifluoroacetyl)amino]cyclopropanecarboxamide (1.50 g, 3.377 mmol), 2-bromo-6-flouroaniline (401 ul, 3.545 mmol), tris(dibenzylideneacetone)dipalladium (309 mg, 0.338 mmol), cesium carbonate (1.10 g, 3.377 mmol) and 1.65M tri-t-butylphosphine in dioxane (491 ul, 0.810 mmol) were suspended in dioxane (15 ml), degassed with Argon purge and heated to 90 C for 15 minutes. After this time, the mixture was filtered through a Gelman Acrodisc and the filter was washed with EtOAc (10 ml) and methanol (20 ml). The combined filtrates were concentrated in vacuo and the residue purified by column chromatography eluting with a 0-100% EtAOc/CH2Cl2 gradient to give N-[(1R)-1-(2′-amino-3,3′-difluoro-1,1′-biphenyl-4-yl)ethyl]-1-[(trifluoroacetyl)amino]cyclopropanecarboxamide. Low resolution mass spectrometry: (M+H+)=428.2. 1H NMR (400 MHz, (CD3)2SO) δ 9.79 (s, 1H), 8.28 (d, 1H, J=7.6 Hz), 7.48 (t, 1H, J=8.2 Hz), 7.19-7.26 (m, 2H), 7.02-7.09 (m, 1H), 6.89 (d, 1H, J=7.6 Hz), 6.61-6.68 (m, 1H), 5.22-5.29 (m, 1H), 1.45-1.57 (m, 2H), 1.42 (d, 3H, J=7.1 Hz) and 0.93-1.08 (m, 2H) ppm.

reactant | N-{(1R)-1-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethyl}-1-[(trifluoroacetyl)amino]cyclopropanecarboxamide | 3.377 mmol, 1.50 g | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)[C@@H](C)NC(=O)C1(CC1)NC(C(F)(F)F)=O | C20H25BF4N2O4
reactant | 2-bromo-6-flouroaniline | 3.545 mmol, 401 ul | BrC1=C(N)C(=CC=C1)F | C6H5BrFN
reactant | cesium carbonate | 3.377 mmol, 1.10 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tri-t-butylphosphine | 1.65M | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.338 mmol, 309 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 0.810 mmol, 491 ul | O1CCOCC1 | C4H8O2
product | N-[(1R)-1-(2′-amino-3,3′-difluoro-1,1′-biphenyl-4-yl)ethyl]-1-[(trifluoroacetyl)amino]cyclopropanecarboxamide | NC1=C(C=CC=C1F)C1=CC(=C(C=C1)[C@@H](C)NC(=O)C1(CC1)NC(C(F)(F)F)=O)F | C20H18F5N3O2
